US07696210B2
In a round bottom flask under nitrogen was combined 4-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol-4-yl]-piperazin-1-ylmethyl}-benzene-1,2-diamine (0.17 g, 0.37 mMol), tetrahydrofuran (20 mL), and 1,1′-oxalyldiimidazole (0.284 g, 1.5 mMol) and the solution stirred overnight. Upon arrival the solution was diluted with ethyl acetate (100 mL) and washed with water (100 mL). A precipitate forms and was collected by filtration. The organic layer was concentrated to dryness on a rotary evaporator and combined with the precipitate. Purification by RP-HPLC (Method E) yielded 46 mg (24% yield) of 6-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol-4-yl]-piperazin-1-ylmethyl}-1,4-dihydro-quinoxaline-2,3-dione as an off-white solid. 1H NMR (DMSO-d6): δ=12.19 (s, 1H), 12.09 (s, 1H), 9.82 (br s, 1H), 8.07 (d, 2H, J=8.6 Hz), 7.58 (d, 2H, J=8.6 Hz), 7.27 (m, 2H), 7.22 (d ,1H, J=8.6 Hz), 7.13 (m, 2H), 6.64 (m, 1H), 4.48 (br s, 2H), 4.44 (s, 2H), 3.50 (br s, 2H), 3.38 (br s, 2H), 3.09 (m, 2H), 1.34 (s, 9H). HPLC: Xterra MS C18, 3.5 μm, 4.6×50 mm, flow=0.8 m/min, 5-95% ACN/PICB6 over 10 mins., rt=5.840 mins., 79% pure @ 210 nm, 77% pure @ 300 nm. LC/MS (Method A), rt=1.05 mins., purity=79.19%, calculated mass=508, [M+H]+=509, [M−H]−=507.

reactant | 4-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol-4-yl]-piperazin-1-ylmethyl}-benzene-1,2-diamine | 0.37 mMol, 0.17 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2N2CCN(CC2)CC=2C=C(C(=CC2)N)N | C28H34N6
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | 1,1′-oxalyldiimidazole | 1.5 mMol, 0.284 g | C(C(=O)N1C=NC=C1)(=O)N1C=NC=C1 | C8H6N4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol-4-yl]-piperazin-1-ylmethyl}-1,4-dihydro-quinoxaline-2,3-dione | 46 mg, 24% yield | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2N2CCN(CC2)CC=2C=C1NC(C(NC1=CC2)=O)=O | C30H32N6O2
